US09023873B2
To a solution of 2-ethyl-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)-6-methylaniline (preparation as described in WO 08/074427) (106 mg, 0.3 mmol) in tetrahydrofuran (0.5 ml) was added pyridine (72.6 μl, 0.9 mmol) at 0 to 5° C. A solution of 2-bromo-3-nitrobenzoic acid chloride (87 mg, 0.33 mmol) in tetrahydrofuran (0.5 ml) was added. The reaction mixture was stirred at ambient temperature for 3 hours, then at reflux for 15 hours. After 15 hours, the reaction was not complete so N,N-dimethylacetamide (“DMA”) (0.1 equivalents) and more 2-bromo-3-nitrobenzoic acid chloride (0.2 equivalents) were added. The reaction mixture was stirred at ambient temperature for 41 hours. After 41 hours, the reaction was quenched by addition of saturated aqueous sodium hydrogen carbonate (10 ml) and the mixture extracted twice with ethyl acetate (2×20 ml). The combined organic extracts were dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: cyclohexane/ethyl acetate 6:1) to give N-[2-ethyl-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)-6-methylphenyl]-2-bromo-3-nitrobenzamide (0.133 g, 76% yield).

reactant | 2-ethyl-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)-6-methylaniline | 0.3 mmol, 106 mg | C(C)C1=C(N)C(=CC(=C1)C(C(C(F)(F)F)(F)F)(C(F)(F)F)F)C | C13H12F9N
reactant | pyridine | 0.9 mmol, 72.6 μl | N1=CC=CC=C1 | C5H5N
reactant | 2-bromo-3-nitrobenzoic acid chloride | 0.33 mmol, 87 mg | BrC1=C(C(=O)Cl)C=CC=C1[N+](=O)[O-] | C7H3BrClNO3
reactant | N,N-dimethylacetamide | 0.1 equivalents | CN(C(C)=O)C | C4H9NO
reactant | 2-bromo-3-nitrobenzoic acid chloride | 0.2 equivalents | BrC1=C(C(=O)Cl)C=CC=C1[N+](=O)[O-] | C7H3BrClNO3
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | N-[2-ethyl-4-(1,2,2,3,3,3-hexafluoro-1-trifluoromethylpropyl)-6-methylphenyl]-2-bromo-3-nitrobenzamide | 0.133 g, 76% yield | C(C)C1=C(C(=CC(=C1)C(C(C(F)(F)F)(F)F)(C(F)(F)F)F)C)NC(C1=C(C(=CC=C1)[N+](=O)[O-])Br)=O | C20H14BrF9N2O3
